US06716850B2
b) (2Z)-3-(3,6-difluoro-2-methoxyphenyl)prop-2enyl Diazoacetate
The p-toluenesulfonylhydrozone of glyoxylic acid chloride (5.16 g; 0.02 mol) was added to a solution of (2Z)-3-(3,6-difluoro-2-methoxyphenyl)-2-propen-1-ol (3.6 g; 0.018 mol) in dry CH2Cl2 (50 ml) at −5C., and N,N-dimethylaniline (2.5 ml; 0.02 mol) was added slowly. After stirring for 30 min at −5C., Et3N (12 ml; 0.09 mol) was added slowly. The resulting mixture was stirred for 15 min at −5C. and then for 30 min at room temperature, whereupon water (˜50 ml) was added. The organic phase was separated washed with water, brine and concentrated in vacuo. Flash chromatography (silica, EA:Hex; 1:15) gave 3.86 g (80%) of product as a yellow solid.

reactant | glyoxylic acid chloride | 0.02 mol, 5.16 g | C(C=O)(=O)Cl | C2HClO2
reactant | (2Z)-3-(3,6-difluoro-2-methoxyphenyl)-2-propen-1-ol | 0.018 mol, 3.6 g | FC=1C(=C(C(=CC1)F)\C=C/CO)OC | C10H10F2O2
reactant | N,N-dimethylaniline | 0.02 mol, 2.5 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | Et3N | 0.09 mol, 12 ml | CCN(CC)CC | C6H15N
reactant | water | ˜50 ml | O | H2O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (2Z)-3-(3,6-difluoro-2-methoxyphenyl)prop-2enyl Diazoacetate | 3.86 g, 80% | [N+](=[N-])=CC(=O)OC\C=C/C1=C(C(=CC=C1F)F)OC | C12H10F2N2O3
